US08008307B2
Step d: ((1S,2S,4R)-4-azido-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl)methanol
To a solution of (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-(hydroxymethyl)-cyclopentyl methanesulfonate (0.470 g, 0.00145 mol) in N,N-Dimethylformamide (6 mL, 0.08 mol) was added sodium azide (0.4 g, 0.006 mol) 23° C., and the mixture was heated at 55° C. for 3 hours. The reaction was cooled to 23° C., quenched by addition of water and extracted with EtO (3×), dried (Na2SO4), filtered and concentrated. The residue was purified by flash chromatography (10 to 25% ethyl acetate/hexane) to obtain 211 mg (53.7%).

reactant | (1S,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-(hydroxymethyl)-cyclopentyl methanesulfonate | 0.00145 mol, 0.470 g | CS(=O)(=O)O[C@@H]1C[C@@H]([C@@H](C1)CO)O[Si](C)(C)C(C)(C)C | C13H28O5SSi
reactant | N,N-Dimethylformamide | 0.08 mol, 6 mL | CN(C=O)C | C3H7NO
reactant | sodium azide | 0.006 mol, 0.4 g | [N-]=[N+]=[N-].[Na+]
product | ((1S,2S,4R)-4-azido-2-{[tert-butyl(dimethyl)silyl]oxy}cyclopentyl)methanol | N(=[N+]=[N-])[C@H]1C[C@@H]([C@@H](C1)CO)O[Si](C)(C)C(C)(C)C | C12H25N3O2Si
